US06693123B2
[4-(3-pyridylmethylamino)-2-phenylbenzoyl]methionine methyl ester (80 mg, 0.18 mmol), prepared as in Example 192C, was dissolved in methanol (5 mL), cooled to 0° C., and the solution was saturated with anhydrous ammonia. The reaction was sealed for 72 hours at ambient temperature. Evaporation to dryness afforded [4-(3-pyridylmethylamino)-2-phenylbenzoyl]methionineamide (78 mg). MS m/e 435 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ 1.59 (m, 2H), 1.83 (m, 2H), 2.02 (s, 3H), 4.43 (s, 2H), 4.51 (m, 1H), 5.16 (s, 1H), 5.64 (m, 1H), 6.14 (m, 1H), 6.50 (d, J=3 Hz, 1H), 6.63 (m, 1H), 7.38 (m, 7H), 7.66 (m, 2H), 8.55 (m, 1H), 8.62 (m, 1H).

reactant | [4-(3-pyridylmethylamino)-2-phenylbenzoyl]methionine methyl ester | 0.18 mmol, 80 mg | COC([C@@H](NC(C1=C(C=C(C=C1)NCC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C25H27N3O3S
reactant | ammonia | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | [4-(3-pyridylmethylamino)-2-phenylbenzoyl]methionineamide | 78 mg | N1=CC(=CC=C1)CNC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)N)C=C1)C1=CC=CC=C1 | C24H26N4O2S
